US04963543
To a solution of (2S,4R)-4-t-butyldimethylsilyloxy-2-methanesulfonyloxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (5.21 g) in N,N-dimethylformamide (52 ml) was added potassium thioacetate (1.83 g) and the mixture was stirred at 50°-60° C. for 1 hour. The reaction mixture was poured into ice-water (150 ml) and extracted 3 times with ethyl acetate (50 ml). The extracts were combined, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a residue. The residue was subjected to a column chromatography on silica gel (150 g) and eluted with a mixture of n-hexane and ethyl acetate (3:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-2-acetylthiomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (4.70 g).

reactant | (2S,4R)-4-t-butyldimethylsilyloxy-2-methanesulfonyloxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 5.21 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COS(=O)(=O)C | C20H32N2O8SSi
reactant | potassium thioacetate | 1.83 g | C(C)(=S)[O-].[K+]
solvent | N,N-dimethylformamide | 52 ml | CN(C=O)C | C3H7NO
product | (2S,4R)-2-acetylthiomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 4.70 g | C(C)(=O)SC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C21H32N2O6SSi
